* /home/valentin/lab-electronics/optical-pulsation-level-indicator/optical-pulsation-level-indicator.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Wed 23 Mar 2016 12:59:43 AM EET

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ Photodiode		
P2  +9V GND 9V Battery Connector		
U1  /+4.5V /+4.5V Net-_C1-Pad1_ +9V Net-_D1-Pad2_ Net-_D1-Pad1_ Net-_C2-Pad2_ Net-_D2-Pad1_ Net-_D2-Pad2_ Net-_C2-Pad1_ GND Net-_C5-Pad1_ Net-_R12-Pad2_ Net-_R12-Pad2_ LM324N		
R4  Net-_C2-Pad2_ Net-_D1-Pad1_ 100k		
D3  Net-_C5-Pad1_ Net-_D2-Pad1_ 1N4148		
R8  Net-_R7-Pad2_ Net-_R8-Pad2_ 10k		
R9  Net-_R8-Pad2_ Net-_R10-Pad1_ 10k		
R10  Net-_R10-Pad1_ Net-_R10-Pad2_ 1k		
R11  Net-_R10-Pad2_ /+4.5V 1k		
R14  Net-_D5-Pad1_ Net-_R14-Pad2_ 100		
D5  Net-_D5-Pad1_ +3V LED		
R15  Net-_D6-Pad1_ Net-_R15-Pad2_ 100		
D6  Net-_D6-Pad1_ +3V LED		
R16  Net-_D7-Pad1_ Net-_R16-Pad2_ 100		
D7  Net-_D7-Pad1_ +3V LED		
P1  +3V GND 3V Battery Connector		
C3  +9V GND 470u		
C4  +9V GND 100n		
U2  Net-_R14-Pad2_ Net-_R13-Pad2_ +9V Net-_R12-Pad2_ Net-_R7-Pad2_ Net-_R12-Pad2_ Net-_R8-Pad2_ Net-_R12-Pad2_ Net-_R10-Pad2_ Net-_R12-Pad2_ Net-_R10-Pad1_ GND Net-_R15-Pad2_ Net-_R16-Pad2_ LM339		
R2  +9V Net-_C1-Pad1_ 470k		
R3  Net-_C1-Pad1_ GND 470k		
C1  Net-_C1-Pad1_ GND 100n		
R1  /+4.5V Net-_D1-Pad2_ 100k		
C2  Net-_C2-Pad1_ Net-_C2-Pad2_ 100n		
R5  /+4.5V Net-_C2-Pad1_ 470k		
D2  Net-_D2-Pad1_ Net-_D2-Pad2_ 1N4148		
R6  Net-_R12-Pad2_ Net-_D2-Pad2_ 100k		
C5  Net-_C5-Pad1_ GND 100n		
R13  Net-_D4-Pad1_ Net-_R13-Pad2_ 100		
D4  Net-_D4-Pad1_ +3V LED		
R7  +9V Net-_R7-Pad2_ 16k		
P3  Net-_P3-Pad1_ /+4.5V Voltmeter or ampermetter		
R12  Net-_P3-Pad1_ Net-_R12-Pad2_ 10k		

.end
